US07459550B2
Preparation of Cefditoren Pivoxil
To DMF (80 ml), Cefditoren Sodium (10 gm) was added at 30° C. and stirred to get a clear solution. To the clear solution, solid sodium bicarbonate (1.6 gm), and tetra butyl ammonium hydrogen sulphate were added. The reaction mass was cooled to −20° C. and iodomethyl pivalate (9.76 gm) was charged and stirred for 60 minutes. The reaction mass was poured into isopropyl ether (100 ml). To this reaction mixture DM Water (100 ml) was added. The solid obtained was stirred at 5° C., filtered, washed with water and IPE, and finally dried to get the title compound. Purity(HPLC): 97-99% Yield: 8.5 gm.

reactant | Cefditoren Sodium | 10 gm | CC1=C(SC=N1)/C=C\C2=C(N3[C@@H]([C@@H](C3=O)NC(=O)/C(=N\OC)/C4=CSC(=N4)N)SC2)C(=O)[O-].[Na+]
reactant | sodium bicarbonate | 1.6 gm | C([O-])(O)=O.[Na+]
reactant | iodomethyl pivalate | 9.76 gm | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
catalyst | tetra butyl ammonium hydrogen sulphate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 100 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | Cefditoren Pivoxil | 97-99% Yield | CC1=C(SC=N1)/C=C\C2=C(N3[C@@H]([C@@H](C3=O)NC(=O)/C(=N\OC)/C4=CSC(=N4)N)SC2)C(=O)OCOC(=O)C(C)(C)C | C25H28N6O7S3
